US07282588B2
Preparation of N-{4-[1-(2,3-dihydroxypropyl)-4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]phenyl}-N′-phenylurea
To a solution of N-phenyl-N′-{4-[1-(2-propen-1-yl)-4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]phenyl}urea (0.18 mmol) in 5:1 acetone:water (1.2 mL) was added N-methylmorpholine N-oxide (0.276 mmol) followed by a 2.5% solution of osmium tetroxide in t-butanol (93.5 mg). The reaction mixture was stirred at room temperature for 18 h. The reaction was quenched with saturated aqueous sodium sulfate (1 mL), filtered through a pad of celite (rinsing with ethyl acetate) and concentrated in vacuo. The residue was purified by Gilson reverse phase HPLC to afford the title compound as a white solid (14%). ESMS [M+H]+: 469.2

reactant | N-phenyl-N′-{4-[1-(2-propen-1-yl)-4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]phenyl}urea | 0.18 mmol | C1(=CC=CC=C1)NC(=O)NC1=CC=C(C=C1)C1=NN(C=C1C1=C2C(=NC=C1)NC=C2)CC=C | C26H22N6O
reactant | acetone | CC(=O)C | C3H6O
reactant | water | 1.2 mL | O | H2O
reactant | N-methylmorpholine N-oxide | 0.276 mmol | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | t-butanol | 93.5 mg | C(C)(C)(C)O | C4H10O
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
product | N-{4-[1-(2,3-dihydroxypropyl)-4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]phenyl}-N′-phenylurea | 14% | OC(CN1N=C(C(=C1)C1=C2C(=NC=C1)NC=C2)C2=CC=C(C=C2)NC(=O)NC2=CC=CC=C2)CO | C26H24N6O3
